US09447074B2
Intermediate 20, 2-bromo-4-(ethyloxy)phenol
To a solution of 4-(ethyloxy)phenol (Commercial eg Aldrich) (1.0 g) in chloroform (5 ml) cooled to 0° C. was added bromine (1.26 g) dropwise over 20 min. The resulting mixture was stirred at 25 C. for 2 h, before washing sequentially with aqueous sodium bicarbonate, and brine. The organics were dried over sodium sulphate, filtered and concentrated in vacuo to yield the title compound, 1.8 g

reactant | 4-(ethyloxy)phenol | 1.0 g | C(C)OC1=CC=C(C=C1)O | C8H10O2
reactant | bromine | 1.26 g | BrBr | Br2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-4-(ethyloxy)phenol | BrC1=C(C=CC(=C1)OCC)O | C8H9BrO2
